US09371295B2
Step 1: tert-butyl 2-(2-methoxyquinoline-3-carbonyl)hydrazinecarboxylate
To a stirred suspension of 2-methoxyquinoline-3-carboxylic acid (0.92 g, 4.55 eq) in DCM (45 mL) under N2, HOBT (6.83 mmol, 1.5 eq), EDC.HCl (6.83 mmol, 1.5 eq) triethylamine (5.0 mmol, 1.1 eq) and tert-butylhydrazine carboxylate (5.00 mmol, 1.1 eq) were added. The mixture was stirred at room temperature for 3 h, diluted with DCM and washed with sat. aq. NaHCO3 and sat. aq. NaCl. The organic phase was dried (Na2SO4), concentrated under reduced pressure and the product was purified by flash chromatography (SiO2, Petroleum ether/EtOAc 9:1 to 0:100) affording 1.23 g of product as a white solid (85% yield). MS (ES) C16H19N3O4 requires: 317.34, found: 318.

reactant | 2-methoxyquinoline-3-carboxylic acid | 0.92 g, 4.55 eq | COC1=NC2=CC=CC=C2C=C1C(=O)O | C11H9NO3
reactant | HOBT | 6.83 mmol, 1.5 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 6.83 mmol, 1.5 eq | CCN=C=NCCCN(C)C.Cl
reactant | tert-butylhydrazine carboxylate | 5.00 mmol, 1.1 eq | C(C)(C)(C)OC(=O)NN | C5H12N2O2
solvent | DCM | 45 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 2-(2-methoxyquinoline-3-carbonyl)hydrazinecarboxylate | 1.23 g, 85% yield | COC1=NC2=CC=CC=C2C=C1C(=O)NNC(=O)OC(C)(C)C | C16H19N3O4
